Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ketorolac
 
Attending: ___.
 
Chief Complaint:
Chest pain and shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year-old woman from nursing facility presents with shortness 
of breath with substernal chest pain since the morning of 
admission.  The patient had no relief from 3 sublingual 
nitroglycerin tablets, but got relief after receiving morphine 
in the emergency department.  The chest pain was non-radiating 
and ___.  She currently only complains of mild discomfort of 
the chest.

She denies fevers or chills, but did have a cough for the last 2 
weeks productive of yellow phlegm.  She is staying at the 
nursing facility because she is very debilitated from lower 
extremity weakness and poor balance.  She can walk short 
distances with a walker.  Denies orthopnea or PND.

She denies headache, neck pain, abdominal pain, nausea, 
vomiting, dysuria.  She does have urinary incontinence, but no 
stool incontinence.  She complains of constipation.  She 
endorses arthritic joint pain everywhere.  She does not have 
confusion.
 
Past Medical History:
1. CAD status post CABG in ___ with an EF of greater than 55% 
2. Chronic Atrial fibrillation but recently in NSR, on 
amiodarone but not on anti-coagulation
3. Hypertension
4. Diabetes mellitus type 2 
5. Hypercholesterolemia
6. Superficial spreading melanoma 
7. Hip fracture with ORIF in ___
8. Urinary tract infection 
9. Thyroid disease
10. Urinary incontinence
11. Constipation
12. Melanoma, locally metastatic with chemo ___
13. Right humeral head fracture in ___
14. s/p multiple falls 
 
Social History:
___
Family History:
Non contributory

 
Physical Exam:
VS: 98.2 123/82 72 19 96% on 2L
GEN: NAD, comfortable in bed, awake and alert
HEENT: PERRL, EOMI, MMM, no oropharyngeal lesions
NECK: Supple, JVP 7-8cm
CHEST: CTAB
CV: RRR, normal s1 and s2
ABD: Soft, nontender, nondistended, bowel sounds present
EXT: No lower extremity edema
SKIN: No rash
NEURO: CN ___ intact x mild decrease in hearing on right ear, 
sensory intact throughout, strength ___ BUE/BLE, did not 
ambulate patient, fluent speech
PSYCH: Pleasant, calm
 
Pertinent Results:
___
WBC-8.9 Hgb-12.7 Hct-38.5 MCV-88 Plt ___
Neuts-72.2* ___ Monos-5.0 Eos-1.8 Baso-0.8

___ PTT-28.4 ___

Glucose-236* UreaN-36* Creat-1.1 Na-142 K-4.1 Cl-99 HCO3-32 
AnGap-15

CK(CPK)-62 cTropnT-0.06* proBNP-2636*

URINE Color-Straw Appear-Clear Sp ___ Blood-NEG 
Nitrite-NEG Protein-NEG Glucose-NEG Ketone-NEG Bilirub-NEG 
Urobiln-NEG pH-5.0 Leuks-NEG

CXR IMPRESSION: 
Left lower lobe consolidation, possibly atelectasis but 
infection 
is not excluded. Small bilateral pleural effusions. 

 
Brief Hospital Course:
___ year-old woman admitted with chest pain and shortness of 
breath with evidence of possible PNA on CXR. The patient 
received Vancomycin and Levaquin in the ED for possible 
pneumonia and Lasix 10mg IV for possible congestive heart 
failure. During her hospital course, her presentation was less 
consistent with congestive heart failure, furthermore she does 
not have a history of heart failure. She was ruled out for 
cardiac ischemia or arrythmia. Her symptoms are thought to be 
related to mild pneumonia versus bronchitis. Throughout her stay 
her vital signs were stable and she never required supplemental 
oxygen. We increased her long acting Isosorbide mononitrate to 
60 mg daily for better blood pressure control. She will need to 
finish a 7 day course of Levofloxacin. She was seen by 
cardiology in consultation, who felt that her chest pain may be 
cardiac, but they recommended medical management at present (in 
the absence of elevated cardiac enzymes and EKG changes) with 
potential additional diagnostics (e.g. stress test) to be 
pursued as an outpatient. She will need follow up with 
cardiology, and a new echocardiogram. Both of these should be 
scheduled by the rehab facility, as we could not make these 
appointments over the weekend.  

Her daytime blood sugars were high on multiple occasions. She 
may benefit from oral anti-diabetic regiment, which could be 
considered as outpatient. All her other chronic medical problems 
were stable, and required no change in her treatment plan.  

During this hospitalization she expressed the wish to be 
DNR/DNI.
 
Medications on Admission:
Levothyroxine 50mcg daily
Aspirin 325mg daily
Cyanocobalamin 1000mcg injection qmonth
Senna 8.6mg 2 tabs daily
Plavix 75mg daily
Lisinopril 5mg daily
Digoxin 0.125mg daily
Metoprolol ER 100mg BID
Isosorbide mononitrate 30mg daily
Lidoderm 5% patch to knee 9am, remove at 9pm
Bumetanide 2mg qam, 1mg qpm
Glimepiride 2mg daily
Crestor 10mg daily
Sliding scale insulin
Albuterol/Atrovent nebs prn
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) Nebulization Inhalation Q6H (every 6 
hours) as needed for Bronchospasm.  
4. Ipratropium Bromide 0.02 % Solution Sig: One (1) Inhalation 
Inhalation Q6H (every 6 hours) as needed for wheezing.  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
8. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for Pain: please give prior to ambulation for 
left ankle pain.  
9. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO BID (2 times a 
day).  
13. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical DAILY (Daily): Apply 
to one to right knee and one to left ankle at 9am, remove at 9pm 
daily. 
.  
14. Rosuvastatin 5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
15. Insulin Regular Human 100 unit/mL Solution Sig: as directed 
per standard insulin sliding scale 1 to 12 Injection ASDIR (AS 
DIRECTED).  
16. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
17. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q48H 
(every 48 hours) for 4 days.  
18. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1) 
pack PO DAILY (Daily) as needed for constipation.  
19. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed for cough.  
20. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) for 5 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Pneumonia
Chest pain
Secondary:
Coronoray artery disease, Chronic Atrial fibrillation, 
Hypertension, Diabetes mellitus type 2, Hypercholesterolemia, 
Constipation

 
Discharge Condition:
Pain free, oxygen saturation 96% on RA

 
Discharge Instructions:
You were admitted with chest pain and cough. You are being 
treated for mild lung infection and will need to continue taking 
your antibiotic as prescribed. We evaluated you also for any 
heart problem, however could not find any abnormality with your 
heart. You will need a follow up appointment scheduled with your 
cardiologist as an outaptient for ongoing managment of your 
congestive heart failure.

We increased your Isosorbid mononitrate to 60 mg daily
you need to continue taking Levofloxacine for 4 more days (Q48H)
 
 
Followup Instructions:
___